US06358980B1
1-(4-Bromo-benzyl)-4-(4-pent-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method as outlined in Example 1 (Step 6). Starting from (4-pent-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (4 g, 12.9 mmol) and (4-bromo-benzyl)-bis-(2-chloro-ethyl)-amine (5.83 g, 16.8 mmol, 2.85 g of the product was isolated. Yield 2.85 g (31%); low melting white solid; MS: 549.9 (M+H)+

reactant | (4-pent-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 12.9 mmol, 4 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CCC)=O | C15H18O5S
reactant | (4-bromo-benzyl)-bis-(2-chloro-ethyl)-amine | BrC1=CC=C(CN(CCCl)CCCl)C=C1 | C11H14BrCl2N
product | 1-(4-Bromo-benzyl)-4-(4-pent-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Br)S(=O)(=O)C1=CC=C(C=C1)OCC#CCC | C26H30BrNO5S
